US05922703
(3β,5β,14β,17β)-14-Amino-3-[[[(2-hydroxy-1-phenylethyl)amino]carbonyl]oxy]androstane-17-carboxylic Acid, Methyl Ester Hydrochloride
To a solution of 1.4 g (0.004 mole) of (3β,5β,14β,17β)-14-Amino-3-hydroxyandrostane-17-carboxylic Acid, Methyl Ester, prepared according to the procedure described in U.S. Pat. No. 4,885,280, incorporated by reference herein, in 50 ml of CH2Cl2 under N2 and stirring, is added 0.72 g (0.0044 mole) of 1,1'-carbonyldiimidazole. After 2 days 2.74 g (0.02 mole) of S-2-phenylglycinol is dissolved in a minimum amount of CH2Cl2 and is added to the reaction mixture. The reaction mixture is heated at reflux for 4 days and another 0.54 g (0.004 mole) of (S)-2-phenylglycinol is added. The mixture is heated further at reflux temperature for 6 days. The solution is concentrated at reduced pressure and the residue is taken up with fresh CH2Cl2, is washed well with H2O until the washing is neutral. After drying over MgSO4, CH2Cl2 is removed under reduced pressure to yield the crude free base. The solid is purified by flash chromatography (5% MeOH/CH2Cl2, NH4OH) and then converted to its hydrochloride salt by the treatment with ethanolic HCl. Two crops of (3β(S),5β,14β,17β)-14-Amino-3-[[[(2-hydroxy-1-phenylethyl)amino]carbonyl]oxy]androstane-17-carboxylic Acid, Methyl Ester Hydrochloride Final Product are obtained.

reactant | (3β,5β,14β,17β)-14-Amino-3-hydroxyandrostane-17-carboxylic Acid, Methyl Ester | 0.004 mole, 1.4 g | N[C@]12CC[C@@H]([C@@]1(C)CC[C@@H]1[C@]3(CC[C@@H](C[C@H]3CC[C@@H]21)O)C)C(=O)OC | C21H35NO3
reactant | 1,1'-carbonyldiimidazole | 0.0044 mole, 0.72 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (S)-2-phenylglycinol | 0.004 mole, 0.54 g | C1(=CC=CC=C1)[C@H](N)CO | C8H11NO
reactant | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | (3β,5β,14β,17β)-14-Amino-3-[[[(2-hydroxy-1-phenylethyl)amino]carbonyl]oxy]androstane-17-carboxylic Acid, Methyl Ester Hydrochloride | Cl.N[C@]12CC[C@@H]([C@@]1(C)CC[C@@H]1[C@]3(CC[C@@H](C[C@H]3CC[C@@H]21)OC(=O)NC(CO)C2=CC=CC=C2)C)C(=O)OC | InChI=1S/C30H44N2O5.ClH/c1-28-14-11-21(37-27(35)32-25(18-33)19-7-5-4-6-8-19)17-20(28)9-10-23-22(28)12-15-29(2)24(26(34)36-3)13-16-30(23,29)31;/h4-8,20-25,33H,9-18,31H2,1-3H3,(H,32,35);1H/t20-,21+,22+,23-,24-,25?,28+,29-,30+;/m1./s1
